US07563799B2
[2,4-Bis-(2,4-difluoro-phenoxy)-pyrimidin-5-yl]-(2-methyl-5-methylsulfanyl-phenyl)-methanol (2.15 g, 4.281 mmol) was dissolved in 40 mL methylene chloride together with 10.0 g of MnO2, and the reaction mixture was heated to reflux for 16 hours. The reaction mixture was cooled and filtered through Celite. The filtrate was concentrated under reduced pressure, and the resulting residue was recrystallized from methylene chloride/hexanes to yield 1.816 g of [2,4-Bis-(2,4-difluoro-phenoxy)-pyrimidin-5-yl]-(2-methyl-5-methylsulfanyl-phenyl)-methanone, MS (M+H)=501.

reactant | [2,4-Bis-(2,4-difluoro-phenoxy)-pyrimidin-5-yl]-(2-methyl-5-methylsulfanyl-phenyl)-methanol | 4.281 mmol, 2.15 g | FC1=C(OC2=NC=C(C(=N2)OC2=C(C=C(C=C2)F)F)C(O)C2=C(C=CC(=C2)SC)C)C=CC(=C1)F | C25H18F4N2O3S
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 10.0 g | O=[Mn]=O
product | [2,4-Bis-(2,4-difluoro-phenoxy)-pyrimidin-5-yl]-(2-methyl-5-methylsulfanyl-phenyl)-methanone | 1.816 g | FC1=C(OC2=NC=C(C(=N2)OC2=C(C=C(C=C2)F)F)C(=O)C2=C(C=CC(=C2)SC)C)C=CC(=C1)F | C25H16F4N2O3S
